### PR TITLE
Chainstate: Coin, UtxoSet, and the uniform UTXO action

### PR DESCRIPTION
**Pull request by ProofOfKeags**
First leaf of the validity layer: the chainstate *machine* — the UTXO set and the uniform action a transaction performs on it — with consensus guards deliberately absent (they land next, in a dedicated `Consensus/` layer; #36).

## Design (from the 2026-07-05 planning discussion)

- **Action/guard split.** Every transaction — coinbase included — does the same thing to the UTXO set: erase the input outpoints, insert the created outputs. Validity guards are separate rules stated *over* the action later. The coinbase's null-outpoint erase is vacuous, so the action needs no case split; coinbase-ness is positional (first in a block), so `Provenance.coinbase` is supplied by the block layer, never computed from the bytes.
- **Fees are not spec objects.** The accounting identity here is guard-free and subtraction-free in `Nat`; the monetary rule becomes a block-level delta invariant (#37), and Core's incremental fee accounting is an `Impl/` refinement.
- **`Coin` = `TxOut` + `Provenance`** (creation height, coinbase flag) — Core's chainstate triple; spend-time guards (maturity, BIP68) need metadata the spending transaction cannot carry.
- **Spec representation:** Mathlib `Finmap`; efficiency is a later `Impl/` transport (#40). `totalValue` sums in `Nat` because `UInt64` wraps and the bound preventing it is a guard this layer doesn't have.

## Checked claims

- `UtxoSet.lookup_apply_of_mem_creates` / `lookup_apply_output` / `lookup_apply_of_mem_spends` / `lookup_apply_of_notMem`: the complete lookup characterization of the action.
- `UtxoSet.totalValue_apply`: total after + spent = total before + created; hypotheses are exactly what the validity guards (#36) will supply, so gated conservation is a one-line specialization.
- Primitives beneath: `lookup_spend`, `lookup_create_of_mem`, `totalValue_spend`, `totalValue_create`, and `Finmap.insert_erase` (new `Ext/Finmap.lean` — Mathlib gap).

## Notes

- `TxBody.txid` extracted from `Tx.txid` (definitional delegation): the txid's preimage is exactly the body, and the action keys created outputs from a bare `TxBody`.
- The vout width wrinkle is carried honestly: `OutPoint.vout : UInt32` vs a `CountedList`'s 2^64 capacity means the characterization theorems take `outputs.length <= 2^32`; the block-size guard discharges it later (#37).
- BIP30 insert-over-existing semantics deferred to #39.

All commits build individually; `lake build`, `lake lint`, `lake test` clean; headline theorems registered in the axiom audit.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: BtcVerified/Chainstate/UtxoSet.lean [hunk 1]
```diff
@@ -0,0 +1,204 @@
...
+  | nil => simp [spend]
+  | cons hd tl ih =>
+    change (spend (utxos.erase hd) tl).lookup o = _
+    rw [ih]
+    by_cases htl : o ∈ tl
+    · simp [htl]
+    · by_cases hhd : o = hd
+      · subst hhd
+        simp [htl, Finmap.lookup_erase]
+      · simp [htl, hhd, Finmap.lookup_erase_ne hhd]
```
Comment (ProofOfKeags) [inline BtcVerified/Chainstate/UtxoSet.lean]: It feels like this should be broken up into two theorems, one about erasure of the list, and one about the noop on the rest.

File: BtcVerified/Chainstate/UtxoSet.lean [hunk 2]
```diff
@@ -0,0 +1,204 @@
...
+  ((utxos.lookup outpoint).map fun coin => coin.output.value.toNat).getD 0
+
+/-- The total satoshi value held across the whole set, as a `Nat` sum —
+`UInt64` sums wrap, and no guard bounds the total at this layer. -/
+def UtxoSet.totalValue (utxos : UtxoSet) : Nat :=
+  (utxos.entries.map fun entry => entry.2.output.value.toNat).sum
+
+/-- Erase every outpoint in a list — the spend half of a transaction's
+action on the set. -/
+def UtxoSet.spend (utxos : UtxoSet) (outpoints : List OutPoint) : UtxoSet :=
```
Comment (ProofOfKeags) [inline BtcVerified/Chainstate/UtxoSet.lean:67]: I don't know that this should be stated over lists. Perhaps better to state over finsets?

File: BtcVerified/Chainstate/UtxoSet.lean [hunk 3]
```diff
@@ -0,0 +1,204 @@
...
+  outpoints.foldl (fun m outpoint => m.erase outpoint) utxos
+
+/-- Insert a coin at every key in a list — the create half of a
+transaction's action on the set. `Finmap.insert` replaces, so a later entry
+overwrites an earlier one at a duplicated key; the characterization lemmas
+therefore assume distinct keys. -/
+def UtxoSet.create (utxos : UtxoSet) (coins : List (OutPoint × Coin)) : UtxoSet :=
```
Comment (ProofOfKeags) [inline BtcVerified/Chainstate/UtxoSet.lean:74]: Same here, probably ought to be stated over finmaps or maybe even another utxo set

File: BtcVerified/Chainstate/UtxoSet.lean [hunk 4]
```diff
@@ -0,0 +1,204 @@
...
+list. -/
+theorem UtxoSet.mem_spend {utxos : UtxoSet} {outpoints : List OutPoint} {o : OutPoint} :
+    o ∈ utxos.spend outpoints ↔ o ∈ utxos ∧ o ∉ outpoints := by
+  rw [← Finmap.lookup_isSome, lookup_spend, ← Finmap.lookup_isSome]
+  by_cases h : o ∈ outpoints <;> simp [h]
+
+/-- Creating coins leaves lookup untouched away from the created keys. -/
+theorem UtxoSet.lookup_create_of_notMem (utxos : UtxoSet) {coins : List (OutPoint × Coin)}
+    {o : OutPoint} (h : o ∉ coins.map Prod.fst) :
+    (utxos.create coins).lookup o = utxos.lookup o := by
```
Comment (ProofOfKeags) [inline BtcVerified/Chainstate/UtxoSet.lean:131]: the mixing of implicit and explicit parameters here seems a bit sus. Can you do this and still make all parameters useful?

File: BtcVerified/Chainstate/UtxoSet.lean [hunk 5]
```diff
@@ -0,0 +1,204 @@
...
+  induction coins generalizing utxos with
+  | nil => rfl
+  | cons hd tl ih =>
+    rw [List.map_cons, List.mem_cons, not_or] at h
+    change (create (utxos.insert hd.1 hd.2) tl).lookup o = _
+    rw [ih (utxos.insert hd.1 hd.2) h.2, Finmap.lookup_insert_of_ne _ h.1]
+
+/-- After creating a list of keyed coins with distinct keys, lookup at a
+listed key finds exactly the listed coin. -/
+theorem UtxoSet.lookup_create_of_mem (utxos : UtxoSet) {coins : List (OutPoint × Coin)}
```
Comment (ProofOfKeags) [inline BtcVerified/Chainstate/UtxoSet.lean]: are you able to mix explicit and implicit parameters like this where it's not all the implicit ones first? I'm concerned that invoking this theorem with the right parameters will be confusing.

File: BtcVerified/Chainstate/UtxoSet.lean [hunk 6]
```diff
@@ -0,0 +1,204 @@
...
+overwrites an earlier one at a duplicated key; the characterization lemmas
+therefore assume distinct keys. -/
+def UtxoSet.create (utxos : UtxoSet) (coins : List (OutPoint × Coin)) : UtxoSet :=
+  coins.foldl (fun m coin => m.insert coin.1 coin.2) utxos
+
+/-! ## Lookup characterizations -/
+
+/-- After spending a list of outpoints, lookup returns `none` on the list's
+members and is untouched elsewhere. -/
+theorem UtxoSet.lookup_spend (utxos : UtxoSet) (outpoints : List OutPoint) (o : OutPoint) :
```
Comment (ProofOfKeags) [inline BtcVerified/Chainstate/UtxoSet.lean]: this composite theorem doesn't seem especially useful, it seems like a trivial joining of the theorems about how outpoints behave with respect to spending when they exist vs don't exist.

File: BtcVerified/Chainstate/UtxoSet.lean (hunk 3 above)
Comment (ProofOfKeags) [inline BtcVerified/Chainstate/UtxoSet.lean:74]: since we use "spend" for erasure, perhaps we should call this "mint"?

File: BtcVerified/Chainstate/Apply.lean [hunk 7]
```diff
@@ -0,0 +1,181 @@
...
+  rw [UInt32.toNat_ofNat_of_lt' (Nat.lt_of_lt_of_le hxlt houtputs),
+    UInt32.toNat_ofNat_of_lt' (Nat.lt_of_lt_of_le hylt houtputs)] at hv
+  have hfst : x.1 = y.1 := by
+    rw [← hxget, ← hyget]
+    simp [hv]
+  exact Prod.ext_iff.mpr ⟨hfst, hv⟩
+
+/-- Output `i` of a transaction appears among its created coins, at the
+outpoint keyed by the txid and `i`. -/
+theorem TxBody.mem_creates (body : TxBody) (provenance : Provenance) {i : Nat}
```
Comment (ProofOfKeags) [inline BtcVerified/Chainstate/Apply.lean]: I'm not following this idiom of "mem" and perhaps think it needs to be renamed.

**Review by ProofOfKeags — COMMENTED** [review]
First round of comments for the chainstate folding. Basically I think this points the right direction but a lot of the naming is off and I wonder about the precise formulation of the theorems stated over the utxo set.

**Comment by ProofOfKeags** [comment]
Revisions from the review round (history rewritten into the original commits, force-pushed):

- **Composite `lookup_spend` split** into `lookup_spend_of_mem` / `lookup_spend_of_notMem`, matching the create-side shape and the `lookup_erase`/`lookup_erase_ne` idiom.
- **`spend_perm` added**: order-freedom within a transaction stated as a theorem of the machine — resolving the lists-vs-finsets question in favor of keeping list-shaped primitives (the extensional content is delivered by the characterization lemmas; per the discussion, the degenerate-transition scaffolding lives in the guards, see the scope addition on #36).
- **Binder normalization** under one rule — implicit iff inferable from the passed hypotheses or the goal at the use site — applied uniformly across both modules (`utxos`/`provenance`/`body` now implicit in the apply theorems; subjects of hypotheses implicit everywhere).
- **Naming kept as-is per the discussion**: mathlib `mem`/`of_mem` grammar (the repo's locked convention; names the conclusion/hypotheses), and `create` over `mint` (minting is coinbase economics; the insert half runs for every transaction).

`lake build`, `lake lint`, `lake test` clean; audit updated for the renamed/added theorems.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

File: BtcVerified/Chainstate/Apply.lean [hunk 8]
```diff
@@ -0,0 +1,181 @@
...
+action on the UTXO set. -/
+def TxBody.spends (body : TxBody) : List OutPoint :=
+  body.inputs.val.map fun input => input.prevout
+
+/-- The keyed coins a transaction's outputs create — the insert half of its
+action on the UTXO set: output `i` becomes a coin at the outpoint keyed by
+the transaction's txid and `i`, stamped with the supplied provenance. -/
+def TxBody.creates (body : TxBody) (provenance : Provenance) : List (OutPoint × Coin) :=
+  body.outputs.val.zipIdx.map fun entry =>
+    (⟨body.txid, UInt32.ofNat entry.2⟩, ⟨entry.1, provenance⟩)
```
Comment (ProofOfKeags) [inline BtcVerified/Chainstate/Apply.lean]: I'm wondering if this belongs here. This takes provenance as an argument so it can return coins, but the provenance can be zipped in after the fact, so this function only returns (Outpoint × TxOut). Given that this is the chainstate module it seems ok to put provenance there from a responsibilities standpoint but it doesn't seem necessary here as it's more or less a duplicated passthrough argument

**Comment by ProofOfKeags** [comment]
Applied the `TxBody.creates` passthrough fix, amended into the action commit: `creates` is now a function of the transaction alone, returning `(OutPoint × TxOut)` pairs; `apply` stamps the provenance onto each created coin at the one place transaction meets context. `txid_of_mem_creates`, `creates_keys_nodup`, `mem_creates`, and `creates_values` all lost the provenance binder (it was demonstrably unconstrained in each), the freshness hypothesis in `totalValue_apply` is now provenance-free, and `lookup_apply_of_mem_creates` shows the stamping in its conclusion — `(o, out) ∈ body.creates → lookup o = some ⟨out, provenance⟩` — instead of hiding it in the hypothesis. One new plumbing lemma (`creates_stamped_keys`: stamping re-keys nothing). Build/lint/test clean.

🤖 Generated with [Claude Code](https://claude.com/claude-code)
